US08021574B2
Under an argon gas atmosphere, a mixture of 200.0 g (706.3 mmol) of 1(3-bromophenyl)naphthalene and 2.1 L of dehydrated THF was cooled down to −60 degrees C., and added with 543 ml (847 mmol) of hexane solution of 1.56M n-butyllithium in drops while being stirred. Then, the reaction mixture was stirred for two hours at −60 degree C. 398.5 g (2.119 mol) of triisopropyl borate was dropped into the reaction solution at −60 degrees C. Subsequently, the reaction mixture was warmed up to room temperature, and stirred for 17 hours. The reaction mixture was further added with solution of hydrochloric acid to be stirred for one hour at room temperature. After the reaction, the reaction mixture was further added with toluene, so that aqueous phase thereof was eliminated. After organic phase thereof was dried with magnesium sulfate, the solvent was distilled away under reduced pressure. By recrystallizing the obtained solid by toluene, 126 g of 3-(1-naphthyl)phenylboronic acid was obtained at an yield of 67%.

reactant | 1(3-bromophenyl)naphthalene | 706.3 mmol, 200.0 g | BrC=1C=C(C=CC1)C1=CC=CC2=CC=CC=C12 | C16H11Br
reactant | hexane | 847 mmol, 543 ml | CCCCCC | C6H14
reactant | n-butyllithium | 1.56M | C(CCC)[Li]
reactant | triisopropyl borate | 2.119 mol, 398.5 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 2.1 L | C1CCOC1 | C4H8O
product | 3-(1-naphthyl)phenylboronic acid | 126 g, yield of 67% | C1(=CC=CC2=CC=CC=C12)C=1C=C(C=CC1)B(O)O | C16H13BO2
